US06908916B2
(5-[1,4]Diazepan-1-ylmethyl-pyrrolo[2,1-f][1,2,4]triazin-4-yl)-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine
A mixture of (5-benzenesulfinylmethyl-pyrrolo[2,1-f][1,2,4]triazin-4-yl)-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine (50 mg, 0.101 mmole) and homopiperazine (300 mg, 30 equiv) in a sealed tube was heated at 135° C. overnight. The reaction mixture was taken up in DCM, washed with water, and dried (Na2SO4). Removal of the solvent followed by radial chromatography (2 mm silica gel plate eluted with DCM containing 5% MeOH) afforded the title compound as a foam (39 mg, 82%). 1H NMR (CDCl3) δ 1.85 (m, 2H), 2.96 (m, 8H), 3.91 (s, 2H), 5.58 (s, 2H), 6.50 (d, 1H, J=3 Hz), 6.8-7.6 (m, 7H), 7.89 (s, 1H), 8.05 (d, 1H, J=1 Hz), 8.11 (d, 1H, J=2 Hz); MS: 471 (M+H)+; HPLC Ret Time: 1.09 min (YMC Xterra ODS S7, 3.0×50 mm column, 2 min gradient, 5 mL/min).

reactant | (5-benzenesulfinylmethyl-pyrrolo[2,1-f][1,2,4]triazin-4-yl)-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine | 0.101 mmole, 50 mg | C1(=CC=CC=C1)S(=O)CC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F | C27H21FN6OS
reactant | homopiperazine | 300 mg, 30 equiv | N1CCNCCC1 | C5H12N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (5-[1,4]Diazepan-1-ylmethyl-pyrrolo[2,1-f][1,2,4]triazin-4-yl)-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine | 39 mg, 82% | N1(CCNCCC1)CC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F | C26H27FN8
